US04597905
2-Bromo-2-nitro-1,3-propanediol (0.02 m) and malonaldehyde bis (dimethyl acetal) (3.3 ml, 0.02 m) were heated, under nitrogen, in an oil bath at 96° C. Toluene sulfonic acid monohydrate (50 mg) was added after the solid melted. The reaction flask was sealed with a rubber septum and returned to the bath. Every 10 minutes the flask was flushed for one minute with a vigorous nitrogen stream to remove methanol. After 2 hours the brown viscous oil was cooled and subsequently solidified. The dark oily solid was treated with 20 ml of boiling hexane. The hot light yellow hexane solution was decanted from an insoluble black tar. Upon cooling to room temperature a slightly yellow solid crystallized out. The solid was collected and washed with hexane to give 5-bromo-5-nitro-2-(2',2'-dimethoxyethyl)-1,3-dioxane (3.5 g) m.p. 95°-97° C. A sample recrystallized from methanol melted at 96°-98° C.

reactant | 2-Bromo-2-nitro-1,3-propanediol | BrC(CO)(CO)[N+](=O)[O-] | C3H6BrNO4
reactant | malonaldehyde bis (dimethyl acetal) | 3.3 ml | COC(CC(OC)OC)OC | C7H16O4
reactant | Toluene sulfonic acid monohydrate | 50 mg | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
product | 5-bromo-5-nitro-2-(2',2'-dimethoxyethyl)-1,3-dioxane | 3.5 g | BrC1(COC(OC1)CC(OC)OC)[N+](=O)[O-] | C8H14BrNO6
